US04965284
N,N'-(5,5-Dioxodibenzothiophene-3,7-diyl) bisbenzenamide
The procedure of Example 60 was followed using 3,7-diamino-dibenzothiophene S,S-dioxide and benzoyl chloride giving the desired product as a yellow solid.

reactant | 3,7-diamino-dibenzothiophene S,S-dioxide | NC=1C=CC2=C(S(C3=C2C=CC(=C3)N)(=O)=O)C1 | C12H10N2O2S
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N,N'-(5,5-Dioxodibenzothiophene-3,7-diyl) bisbenzenamide | O=S1(C2=C(C3=C1C=C(C=C3)NC(=O)C3=CC=CC=C3)C=CC(=C2)NC(=O)C2=CC=CC=C2)=O | C26H18N2O4S
